US07169761B2
Manganese dioxide (20.4 g) was added to a solution of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-(hydroxymethyl)phenyl]-D-glucitol (6.8 g) obtained in Reference Example 24 in chloroform (100 ml) and the mixture was refluxed with stirring for 1.5 hours. After separating the insoluble matter from the reaction mixture by filtration through celite at room temperature, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain 3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzaldehyde (6.8 g).

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-(hydroxymethyl)phenyl]-D-glucitol | 6.8 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)CO | C41H42O6
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 20.4 g | [O-2].[O-2].[Mn+4]
product | 3-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzaldehyde | 6.8 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C41H40O6
